US05346881
In a flask were placed 10 g (0.047 mole) of 2,2-dimethyl-5-fluoro-1,3-benzodioxol-4-ylcarboxylic acid, 12.98 g (0.0471 mole) of diphenylphosphoryl azide, 4.77 g (0.0471 mole) of triethylamine, and 80 mL of t-butanol. This mixture was heated at reflux for approximately 16 hours, after which the solvent was evaporated under reduced pressure. The residue was passed through a column of silica gel, eluting first with a ;methylene chloride/heptane mixture and finally with pure methylene chloride. The product-containing fractions were combined, and the solvents were evaporated under reduced pressure, leaving 11.9 g of t-butyl N-(2,2-dimethyl-5-fluoro-1,3-benzodioxol-4-yl)carbamate as a residue, mp 106-107° C. The NMR spectrum was consistent with the proposed structure.

reactant | 2,2-dimethyl-5-fluoro-1,3-benzodioxol-4-ylcarboxylic acid | 0.047 mole, 10 g | CC1(OC2=C(O1)C=CC(=C2C(=O)O)F)C | C10H9FO4
reactant | diphenylphosphoryl azide | 0.0471 mole, 12.98 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.0471 mole, 4.77 g | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 80 mL | C(C)(C)(C)O | C4H10O
product | t-butyl N-(2,2-dimethyl-5-fluoro-1,3-benzodioxol-4-yl)carbamate | 11.9 g | CC1(OC2=C(O1)C=CC(=C2NC(OC(C)(C)C)=O)F)C | C14H18FNO4
